US06326333B1
Methyl 8-methyl-2,3-dihydrobenz[1,4]dithiin-7-carboxylate
49.2 g (0.154 mol) of methyl 3-(2-methylsulfonylthio-ethylthio)-2-methylbenzoate were dissolved in 500 ml of methylene chloride, 80.2 g (0.308 mol) of tin tetrachloride were added and the mixture was heated under reflux for three hours and stirred at room temperature for another ten hours. The mixture was then washed with water and saturated sodium bicarbonate solution and the organic phase was separated off, dried and concentrated. The oil that remained was chromatographed over silica gel using ethyl acetate/cyclohexane=1/10.

reactant | methyl 3-(2-methylsulfonylthio-ethylthio)-2-methylbenzoate | 0.154 mol, 49.2 g | CS(=O)(=O)SCCSC=1C(=C(C(=O)OC)C=CC1)C | C12H16O4S3
reactant | tin tetrachloride | 0.308 mol, 80.2 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | Methyl 8-methyl-2,3-dihydrobenz[1,4]dithiin-7-carboxylate | CC1=C(C=CC2=C1SCCS2)C(=O)OC | C11H12O2S2
